US04359420
90 g (214 mmol) of ethyl 5,6-dihydro-5-(2,4-dimethoxybenzyl)-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate are heated to reflux while stirring for 3 hours in 300 ml of trifluoroacetic acid. After evaporation in vacuo, the residue is treated with water and made alkaline with 10 percent potassium carbonate solution. The separated material is filtered off under suction, washed with water and dried in vacuo. After recrystallisation from chloroform/hexane, there is obtained ethyl 5,6-dihydro-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate of melting point 248°-250° C.

reactant | ethyl 5,6-dihydro-5-(2,4-dimethoxybenzyl)-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate | 214 mmol, 90 g | COC1=C(CN2CC=3N(C4=C(C2=O)C=CC=C4)C=NC3C(=O)OCC)C=CC(=C1)OC | C23H23N3O5
solvent | trifluoroacetic acid | 300 ml | FC(C(=O)O)(F)F | C2HF3O2
product | ethyl 5,6-dihydro-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate | O=C1NCC=2N(C3=C1C=CC=C3)C=NC2C(=O)OCC | C14H13N3O3
